US07501428B2
Similar procedure as described in example 1d was used, starting from 2-methylsulfanyl-5-quinazolin-6-ylmethylene-thiazol-4-one, 3-fluoroaniline and DIEA to give 2-(3-fluoro-phenylamino)-5-[1-quinazolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one: LC-MS m/e observed. LC-MS m/e 351 (MH+).

reactant | 2-methylsulfanyl-5-quinazolin-6-ylmethylene-thiazol-4-one | CSC=1SC(C(N1)=O)=CC=1C=C2C=NC=NC2=CC1 | C13H9N3OS2
reactant | 3-fluoroaniline | FC=1C=C(N)C=CC1 | C6H6FN
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 2-(3-fluoro-phenylamino)-5-[1-quinazolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | FC=1C=C(C=CC1)NC=1S\C(\C(N1)=O)=C/C=1C=C2C=NC=NC2=CC1 | C18H11FN4OS
